US09315491B2
5-Ethoxy-2-(4-ethylcarbamoyloxy-phenyl)-6-morpholin-4-yl-pyrimidine-4-carboxylic acid ethyl ester
Ethyl isocyanate (0.013 ml, 1.5 eq.) was added to a stirred solution of 2-(4-hydroxy-phenyl)-5-ethoxy-6-morpholin-4-yl-pyrimidine-4-carboxylic acid ethyl ester (40 mg, 1 eq.) in toluene (3 ml) and the mixture was reacted to reflux overnight. The reaction mixture was extracted with EA and washed with brine. The crude was purified by chromatography to give a product (12 mg, 25.2%).

reactant | Ethyl isocyanate | 0.013 ml, 1.5 eq. | C(C)N=C=O | C3H5NO
reactant | 2-(4-hydroxy-phenyl)-5-ethoxy-6-morpholin-4-yl-pyrimidine-4-carboxylic acid ethyl ester | 40 mg, 1 eq. | C(C)OC(=O)C1=NC(=NC(=C1OCC)N1CCOCC1)C1=CC=C(C=C1)O | C19H23N3O5
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | 5-Ethoxy-2-(4-ethylcarbamoyloxy-phenyl)-6-morpholin-4-yl-pyrimidine-4-carboxylic acid ethyl ester | 12 mg, 25.2% | C(C)OC(=O)C1=NC(=NC(=C1OCC)N1CCOCC1)C1=CC=C(C=C1)OC(NCC)=O | C22H28N4O6
